US09334278B2
To a solution of N-tert-butyl-2-(3-methyl-1,2,4-thiadiazol-5-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (128 mg, 277 μmol) in dichloromethane (4.3 mL) was added trifluoroacetic acid (632 mg, 427 μL, 5.55 mmol) and the mixture stirred at room temperature for 16 h. The mixture was concentrated then re-dissolved in dichloromethane (4 mL), methanol (2 mL) and ammonium hydroxide (0.6 mL) and the mixture stirred at room temperature for 1 h. The mixture was concentrated in vacuo then triturated with water and filtered. The solid obtained was washed with ether then dried to give N-tert-butyl-2-(3-methyl-1,2,4-thiadiazol-5-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (90 mg, 272 μmol, 98%) as a light yellow solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.80 (s, 1H), 12.57 (s, 1H), 8.35 (s, 1H), 8.34 (s, 1H), 7.34 (s, 1H), 2.53 (s, 3H), 1.62 (s, 9H); MS (EI/CI) m/z: 332.1 [M+H].

reactant | N-tert-butyl-2-(3-methyl-1,2,4-thiadiazol-5-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 277 μmol, 128 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC2=NC(=NS2)C)COCC[Si](C)(C)C | C20H31N7O2SSi
reactant | trifluoroacetic acid | 5.55 mmol, 427 μL, 632 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4.3 mL | ClCCl | CH2Cl2
product | N-tert-butyl-2-(3-methyl-1,2,4-thiadiazol-5-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 272 μmol, 90 mg, 98% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)NC2=NC(=NS2)C | C14H17N7OS
